US08044213B2
To mixture of 3.0 g of 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid ethyl ester (VI.41b), 40 mL of tetrahydrofuran and 20 mL of saturated ammonium chloride solution, was added in three equal portions, at 30 minute intervals, 9 g of zinc powder. After the third portion of zinc powder was added, the orange color disappeared and the mixture turned clear. The solid was removed by filtration. The organic layer was separated. The aqueous layer was extracted twice with 30 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was stirred with 30 mL of acetic acid and 3 mL of trimethyl orthoformate for 1 hour. The mixture was concentrated under reduced pressure, 100 mL of water was and the pH adjusted to 9 by addition of 15% sodium hydroxide solution. The precipitate was collected by filtration and purified by silica gel chromatography, eluting with methanol-dichloromethane (gradient 0:100-2:98) to give 2.3 g of 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid ethyl ester (I.41a) as an off-white solid.

reactant | 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C1=C(N=C(S1)NC1=C(C=CC(=C1)C=O)[N+](=O)[O-])C1=CC(=CC=C1)Cl | C19H14ClN3O5S
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc | 9 g | [Zn] | Zn
product | 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid ethyl ester | 2.3 g | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)C=O)C2=CC(=CC=C2)Cl | C20H14ClN3O3S
